US06313137B1
Synthesis of 5,6-diaminonicotinamide
A suspension of 6-amino-5-nitronicotinamide (18 g, 99 mmol) and a cat. amount of Pd/C in methanol (600 ml) and the mixture was hydrogenated at room temperature and atmospheric pressure until the uptake of hydrogen ceased. Following filtration through celite, the methanol was evaporated under reduced pressure to give the title compound, 14.5 g (96%).

reactant | 6-amino-5-nitronicotinamide | 99 mmol, 18 g | NC1=NC=C(C(=O)N)C=C1[N+](=O)[O-] | C6H6N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 600 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5,6-diaminonicotinamide | NC=1C(=NC=C(C(=O)N)C1)N | C6H8N4O
